US09340527B2
4-Bromoanisole (9.35 g, 50.0 mmol, 1.0 eq) was dissolved in anhydrous THF (200 mL). Me3SiCl (12.7 mL, 100.0 mmol, 2.0 eq) was added at 0° C. followed by n-BuLi (2.5 M in hexanes, 40 mL, 100.0 mmol, 2.0 eq). The reaction mixture was stirred at room temperature for 1 h. Water (150 mL) was then added, the organic layer was separated and the aqueous layer was extracted with Et2O (150 mL×2). The combined organic extracts were dried over anhydrous Na2SO4, filtered and concentrated in vacuo to give (4-methoxyphenyl)trimethylsilane as a light yellow oil (8.1 g, 90% yield). 1H NMR (300 MHz, CDCl3) δ: 7.48 (d, J=11.2 Hz, 2H), 6.95 (d, J=11.2 Hz, 2H), 3.84 (s, 3H), 0.27 (s, 9H).

reactant | 4-Bromoanisole | 50.0 mmol, 9.35 g, 1.0 eq | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | Me3SiCl | 100.0 mmol, 12.7 mL, 2.0 eq | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | n-BuLi | 100.0 mmol, 2.5 M, 40 mL, 2.0 eq | [Li]CCCC
reactant | Water | 150 mL | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (4-methoxyphenyl)trimethylsilane | 8.1 g, 90% yield | COC1=CC=C(C=C1)[Si](C)(C)C | C10H16OSi
